US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-1-((4-fluorophenyl)methyl)-2-hydroxyethyl)-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-1,3-bis(4-fluorophenyl)-1-propanol (450 mg, 1.71 mmol) in ethyl acetate (15 ml) were added 1-naphthoyl chloride (386 ml, 2.56 mmol) and saturated aqueous sodium hydrogen carbonate (15 ml) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:acetone=1:1). Recrystallization from ethyl acetate-hexane gave the title compound (515 mg, 72%).

reactant | (1RS,2SR)-2-amino-1,3-bis(4-fluorophenyl)-1-propanol | 1.71 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)F | C15H15F2NO
reactant | 1-naphthoyl chloride | 2.56 mmol, 386 ml | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium hydrogen carbonate | 15 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-1-((4-fluorophenyl)methyl)-2-hydroxyethyl)-1-naphthalenecarboxamide | 515 mg, 72% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)F)NC(=O)C1=CC=CC2=CC=CC=C12)O | C26H21F2NO2
